US07910592B2
t-Butyl nitrite (90%, 6.5 mg, 8.3 μL, 0.0627 mmol) was added to a suspension of (4S,5R)-3-{[5-amino-3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-naphthyl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (19.9 mg, 0.0314 mmol) in CH2I2 (1 mL). Dry CHCl3 (0.5 mL) was added to dissolve the precipitate formed. The solution was heated at 80° C. for 5 h. The reaction mixture was concentrated in vacuo and the resulting slurry was purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-iodo-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.47 (20% EtOAc/hexanes). LCMS calc.=746.1; found 745.8 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 8.11 (d, J=7.2 Hz, 1H); 7.92 (d, J=4.7 Hz, 1H); 7.88-7.85 (m, 1.5H); 7.84 (s, 1H); 7.75 (s, 0.5H); 7.67 (s, 2H); 7.22 (t, J=7.7 Hz, 1H); 7.16 (d, J=8.5 Hz, 0.5H); 7.12 (d, J=8.5 Hz, 0.5H); 6.76-6.70 (m, 1H); 5.54 (d, J=8.1 Hz, 0.5H); 5.34 (d, J=8.0 Hz, 0.5H); 5.01 (d, J=15.7 Hz, 0.5H); 5.00 (d, J=15.7 Hz, 0.5H); 4.22 (d, J=15.7 Hz, 0.5H); 3.98 (d, J=15.7 Hz, 0.5H); 3.81-3.72 (m, 4H); 3.28-3.20 (m, 1H); 1.32-1.24 (m, 4.5H); 1.21 (d, J=6.9 Hz, 1.5H); 0.57 (d, J=6.5 Hz, 1.5H); 0.37 (d, J=6.5 Hz, 1.5H).

reactant | t-Butyl nitrite | 0.0627 mmol, 8.3 μL, 6.5 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | (4S,5R)-3-{[5-amino-3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-naphthyl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.0314 mmol, 19.9 mg | NC1=C2C=C(C(=CC2=CC=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=C(C=C(C(=C1)C(C)C)F)OC | C33H29F7N2O3
reactant | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
reactant | CH2I2 | 1 mL | C(I)I | CH2I2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-iodo-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC(=C2C=C1C1=C(C=C(C(=C1)C(C)C)F)OC)I)C)(F)F | C33H27F7INO3
